US07429597B2
6-chloro-4-[(1R/S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamino]-7-[(2R/S)-2-(2-dimethylamino-ethyl)-piperidin-1-yl-carbonyl]-quinazoline
Prepared analogously to Example 37a from 6-chloro-4-[1-(5-chloro-1H-benzimidazol-2-yl)-ethylamino]-7-hydroxycarbonyl-quinazoline, pentafluorophenyl-tetramethyluronium-hexafluorophosphate (PFTU), diisopropylethylamine and 2-(2-dimethylamino-ethyl)-piperidine in DMSO at ambient temperature.

reactant | 6-chloro-4-[1-(5-chloro-1H-benzimidazol-2-yl)-ethylamino]-7-hydroxycarbonyl-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)O)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C18H13Cl2N5O2
reactant | pentafluorophenyl-tetramethyluronium hexafluorophosphate | FC1=C(C(=C(C(=C1OC(=[N+](C)C)N(C)C)F)F)F)F.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(2-dimethylamino-ethyl)-piperidine | CN(CCC1NCCCC1)C | C9H20N2
solvent | DMSO | CS(=O)C | C2H6OS
product | 6-chloro-4-[(1R/S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamino]-7-[(2R/S)-2-(2-dimethylamino-ethyl)-piperidin-1-yl-carbonyl]-quinazoline | ClC=1C=C2C(=NC=NC2=CC1C(=O)N1C(CCCC1)CCN(C)C)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C27H31Cl2N7O
